US04748253
A mixture of 2-bromo-1-(4'-methoxy-phenyl)-ethanone (22.9 g, 0.1 mol), potassium iodide (66.4 g, 0.4 mol) and acetone (200 ml) is heated at reflux for 3 h. The reaction mixture is cooled, poured into water (0.25 l) and extracted with ethyl ether (3×100 ml) The combined organic extract is washed with water and dried (Na2SO4). Evaporation of the solvent in vacuo leaves a residue which by crystallization from petroleum ether gives 2-iodo-1-(4'-methoxy-phenyl)-ethanone (22 g, 0.094 mol, yield 80%), m.p. 63°-65° C.

reactant | 2-bromo-1-(4'-methoxy-phenyl)-ethanone | 0.1 mol, 22.9 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | potassium iodide | 0.4 mol, 66.4 g | [I-].[K+]
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 0.25 l | O | H2O
product | 2-iodo-1-(4'-methoxy-phenyl)-ethanone | 0.094 mol, 22 g, yield 80% | ICC(=O)C1=CC=C(C=C1)OC | C9H9IO2
